* Schematics Netlist *



V_E1         $N_0001 0 10
V_E2         $N_0002 0 5
V_E3         0 $N_0003 5
R_R1         $N_0004 $N_0001  33  
R_R2         $N_0005 $N_0004  47  
R_R3         $N_0002 $N_0005  33  
R_R4         $N_0005 $N_0006  47  
R_R5         $N_0006 $N_0003  47  
R_R6         $N_0006 0  68  
R_R7         $N_0008 $N_0007  33  
R_R8         $N_0009 $N_0008  47  
R_R10         $N_0009 $N_0010  47  
R_R11         $N_0010 0  47  
R_R14         $N_0012 $N_0011  47  
R_R15         $N_0013 $N_0012  33  
R_R16         $N_0012 $N_0014  47  
R_R17         $N_0014 0  47  
R_R20         $N_0016 $N_0015  47  
R_R21         0 $N_0016  33  
R_R22         $N_0016 $N_0017  47  
R_R23         $N_0017 $N_0018  47  
R_R9         0 $N_0009  33  
R_R12         $N_0010 0  68  
R_R13         $N_0011 0  33  
R_R18         $N_0014 0  68  
R_R19         $N_0015 0  33  
R_R24         $N_0017 0  68  
V_E01         $N_0007 0 10
V_E02         $N_0013 0 5
V_E03         0 $N_0018 5
